US06307047B1
4-Bromo-2-fluorothioanisole
A solution of 2-fluorothioanisole (1.42 g, 10 mmol) and iron powder (0.03 g, 0.5 mmol) in dichloromethane (20 mL) was chilled to ° C. and treated dropwise with Bromine (0.5 mL, 10 mmol). Upon completion of the Bromine treatment, the reaction was sampled for TLC (100% hexanes). A new, higher Rf material was present but the reaction had not gone to completion so another equivalent of bromine was added along with a catalytic amount of aluminum chloride. The reaction mixture was stirred overnight at room temperature. Aqueous sodium sulfite was added to the reaction mixture and the organic layer was isolated, dried over MgSO4, and filtered. The filtrate was filtered through a pad of silica gel to remove color then concentrated under reduced pressure to provide the product as a clear, colorless oil (yield: 1.3 g; 60%). 1H NMR (300 MHz, DMSO-d6) δ 2.48 (s, 3H), 7.31 (t, J=9 Hz, 1H), 7.43 (dd, J=9 Hz, 3 Hz, 1H) 7.54 (dd, J=9 Hz, 3 Hz, 1H).

reactant | 2-fluorothioanisole | 10 mmol, 1.42 g | FC1=C(C=CC=C1)SC | C7H7FS
reactant | Bromine | 10 mmol, 0.5 mL | BrBr | Br2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | iron | 0.5 mmol, 0.03 g | [Fe] | Fe
product | 4-Bromo-2-fluorothioanisole | BrC1=CC(=C(C=C1)SC)F | C7H6BrFS
